US07115645B2
a) 5-Fluoro-2,4-dinitrophenol
0.41 g of 1,3-difluoro-4,6-dinitrobenzene was dissolved in 8 ml of 0.5 N aqueous sodium hydroxide solution and refluxed for 2 hours. After cooling, it was diluted with water and extracted three times with diethyl ether. The aqueous phase was made acidic by adding 1N hydrochloric acid and extracted with diethyl ether. The organic phase was dried on sodium sulfate and concentrated by evaporation in a vacuum.

reactant | 1,3-difluoro-4,6-dinitrobenzene | 0.41 g | FC1=CC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])F | C6H2F2N2O4
reactant | sodium hydroxide | 0.5 N, 8 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 5-Fluoro-2,4-dinitrophenol | FC=1C(=CC(=C(C1)O)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O5
